US05134111
8-hydroxymethyl-1-naphthol (XXXXXVI) is reacted with chloromethyl methyl ether in a customary manner, for example, by using potassium carbonate as an acid remover to obtain a naphthalene derivative (XXXXXVII).

reactant | 8-hydroxymethyl-1-naphthol | OCC=1C=CC=C2C=CC=C(C12)O | C11H10O2
reactant | chloromethyl methyl ether | COCCl | C2H5ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
